US08044039B2
Quetiapine hydrochloride (6 g) was added to a mixture of water (10 ml) and methanol (10 ml). The mixture was stirred for ca. 10 min to dissolve solid material. Toluene 30 ml was added and the pH of the solution was adjusted to 13-14 by addition of 50% NaOH solution. The mixture was heated to 40-50° C. and stirred for 10 min. The toluene phase was separated and washed once with water (10 ml). The toluene solution was evaporated under reduced pressure. The remaining residue was dissolved to 80% ethanol (24 ml) and fumaric acid (0,85 g) was added to the solution. The mixture was heated to reflux for 10 min and cooled to 0° C. The solid material was filtered to give pure white crystals of quetiapine fumarate 4,92 g.

reactant | Quetiapine hydrochloride | 6 g | C=1C=CC2=C(C1)C(=NC=3C=CC=CC3S2)N4CCN(CC4)CCOCCO.Cl
reactant | water | 10 ml | O | H2O
reactant | methanol | 10 ml | CO | CH4O
reactant | NaOH | [OH-].[Na+]
reactant | Toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | quetiapine fumarate | 4,92 g | C=1C=CC2=C(C1)C(=NC=3C=CC=CC3S2)N4CCN(CC4)CCOCCO.C(=C/C(=O)O)\C(=O)O | InChI=1S/C21H25N3O2S.C4H4O4/c25-14-16-26-15-13-23-9-11-24(12-10-23)21-17-5-1-3-7-19(17)27-20-8-4-2-6-18(20)22-21;5-3(6)1-2-4(7)8/h1-8,25H,9-16H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
